US04814349
Preparation of 3,4-dichlorobenzoic acid, 2-isopropylhydrazide
3,4-Dichlorobenzoic acid isopropylidenehydrazide (9.2 g, 0.040 mole) and 100 mg of platinum oxide in 100 mL of methanol in a Parr hydrogenation apparatus is shaken for one hour and 30 minutes under an initial hydrogen pressure of 40 psig. The filtered reaction mixture is concentrated under vacuum and the resulting solids are recrystallized three times from isopropyl alcohol to give 2.6 g of the title compound as a white crystalline product, mp 112.5°-115° C.

reactant | 3,4-Dichlorobenzoic acid isopropylidenehydrazide | 0.040 mole, 9.2 g | C(C)(C)=NNC(C1=CC(=C(C=C1)Cl)Cl)=O | C10H10Cl2N2O
solvent | methanol | 100 mL | CO | CH4O
catalyst | platinum oxide | 100 mg | [Pt]=O
product | 3,4-dichlorobenzoic acid, 2-isopropylhydrazide | 2.6 g | C(C)(C)NNC(C1=CC(=C(C=C1)Cl)Cl)=O | C10H12Cl2N2O
